US08871884B2
2,5-bis(trimethylstannyl)thieno[3,2-b]thiophene (9)
To a solution of thieno[3,2-b]thiophene (1.2 g, 8.56 mmol) in 60 mL THF, 2.5 M solution of n-BuLi in hexane (7.25 mL, 18.0 mmol) was added dropwise at −50° C. under N2. The solution was stirred at −50° C. for 2 h and 1.0 M solution of trimethyltin chloride (18.9 mL, 18.8 mmol) in THF was added in one portion. After stirring at −50° C. for 2 h, the solution was warmed to room temperature and stirred for 24 h. The resulting mixture was poured into deionized water and 100 mL of CHCl3. The organic layer was washed twice with 50 mL of water and dried over anhydrous Na2SO4. The organic layer was evaporated and dried over vacuum to afford brown solid. The solid was then purified by recrystallization from Et2O to give colourless crystals (0.6 g, 82% yield). 1H NMR (CDCl3, 300 MHz, ppm): δ 7.26 (s, 2H), 0.48 (s, 18H).

reactant | thieno[3,2-b]thiophene | 8.56 mmol, 1.2 g | S1C2=C(C=C1)SC=C2 | C6H4S2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 18.0 mmol, 7.25 mL | CCCCCC | C6H14
reactant | trimethyltin chloride | 18.8 mmol, 18.9 mL | C[Sn](C)(C)Cl
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2,5-bis(trimethylstannyl)thieno[3,2-b]thiophene | 0.6 g, 82% yield | C[Sn](C1=CC2=C(S1)C=C(S2)[Sn](C)(C)C)(C)C | InChI=1S/C6H2S2.6CH3.2Sn/c1-3-7-6-2-4-8-5(1)6;;;;;;;;/h1-2H;6*1H3;;
